US09289419B2
Synthesis of (R)-2-(2-(difluoromethoxy)-5-fluorophenyl)pyrrolidine hydrochloride
This compound was prepared by the method substantially similar to the preparation of 2,5-difluorophenyl pyrrolidine hydrochloride as mentioned in Example 1 step 5 using 3-bromo-4-(difluoromethoxy)-1-fluorobenzene (J. Med. Chem. 2003, 46, 1016-1030).

reactant | 2,5-difluorophenyl pyrrolidine hydrochloride | Cl.FC1=C(C=C(C=C1)F)N1CCCC1
reactant | 3-bromo-4-(difluoromethoxy)-1-fluorobenzene | BrC=1C=C(C=CC1OC(F)F)F | C7H4BrF3O
product | (R)-2-(2-(difluoromethoxy)-5-fluorophenyl)pyrrolidine hydrochloride | Cl.FC(OC1=C(C=C(C=C1)F)[C@@H]1NCCC1)F | InChI=1S/C11H12F3NO.ClH/c12-7-3-4-10(16-11(13)14)8(6-7)9-2-1-5-15-9;/h3-4,6,9,11,15H,1-2,5H2;1H/t9-;/m1./s1
